US08124617B2
2-(3-ethoxy-5-(pyridin-3-ylmethoxy)phenyl)-1H-imidazo[4,5-b]pyridine
Reaction of Methyl 3,5-dihydroxybenzoate with ethyl bromide in the presence of potassium carbonate and dimethylformamide for 18 h at room temperature gave a 1:1 mixture of the mono and bis ether adducts. These compounds were separated by chromatography column. The mono adduct was reacted with 3-pyridylmethylbromide in the presence of potassium carbonate and dimethylformamide to give the desired bis ether. The ether was hydrolyzed with sodium hydroxide in methanol, acidified and the subsequent acid was reacted with 2,3-diaminopyridine in HBTU, TEA and DMF. The amide was cyclized to the imidazopyridine by reaction in the microwave at 180° C. for 30 min in 1:1 n-butanol:glacial acetic acid. 1H NMR (400 MHz, CDCl3) δ ppm 8.54 (s, 1H), 8.41 (m, 2H), 7.50 (m, 1H), 7.28 (m, 1H), 7.25 (m, 1H), 6.99 (m, 1H), 6.81 (m, 1H), 6.69 (m, 1H), 6.68 (m, 1H), 5.16 (s, 2H), 4.30 (br s, 1H), 4.09 (q, 2H, J=7 Hz), 1.43 (t, 3H, J=7 Hz); Calc'd for C20H18N4O2; m/z (M+H+)=347; found 347.

reactant | Methyl 3,5-dihydroxybenzoate | OC=1C=C(C(=O)OC)C=C(C1)O | C8H8O4
reactant | ethyl bromide | C(C)Br | C2H5Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2,3-diaminopyridine | NC1=NC=CC=C1N | C5H7N3
reactant | imidazopyridine | N1C=NC2=C1C=CC=N2 | C6H5N3
solvent | methanol | CO | CH4O
solvent | HBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | CN(C)C=O | C3H7NO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | n-butanol | C(CCC)O | C4H10O
solvent | ether | CCOCC | C4H10O
product | 2-(3-ethoxy-5-(pyridin-3-ylmethoxy)phenyl)-1H-imidazo[4,5-b]pyridine | C(C)OC=1C=C(C=C(C1)OCC=1C=NC=CC1)C=1NC=2C(=NC=CC2)N1 | C20H18N4O2
